US04000153
In the manner given in Example 2, 6-(trifluoromethyl)-4-(o-chlorophenyl)-2-hydrazinoquinoline and triethylorthoaceate are refluxed in xylene to give 7-(trifluoromethyl)-1-methyl-5-(o-chlorophenyl)-s-triazolo[4,3-a] quinoline.

reactant | 6-(trifluoromethyl)-4-(o-chlorophenyl)-2-hydrazinoquinoline | FC(C=1C=C2C(=CC(=NC2=CC1)NN)C1=C(C=CC=C1)Cl)(F)F | C16H11ClF3N3
reactant | triethylorthoaceate | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(trifluoromethyl)-1-methyl-5-(o-chlorophenyl)-s-triazolo[4,3-a] quinoline | FC(C=1C=C2C(=CC=3N(C2=CC1)C(=NN3)C)C3=C(C=CC=C3)Cl)(F)F | C18H11ClF3N3
